US06518257B1
(i) Production of 1-[4-(4-amino-2-pyridyl)phenyl]-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol
By the reaction in the same manner as in Example 33-(ii) using 4-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]phenylboronic acid (5.78 g), 4-amino-2-chloropyridine (1.00 g), sodium bromide (810 mg) and tetrakis(triphenylphosphine)palladium(0) (0.190 g), the title compound (2.30 g) was obtained as a yellow amorphous powder.

reactant | 4-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]phenylboronic acid | 5.78 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C32H31BN2O3
reactant | 4-amino-2-chloropyridine | 1.00 g | NC1=CC(=NC=C1)Cl | C5H5ClN2
reactant | sodium bromide | 810 mg | [Br-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.190 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[4-(4-amino-2-pyridyl)phenyl]-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 2.30 g | NC1=CC(=NC=C1)C1=CC=C(C=C1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H34N4O
